US07605269B2
A suspension of 3-[4-(2,2-dimethyl-[1,3]dioxan-5-ylmethoxy)-3,5-dimethyl-phenyl]-5-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-[1,2,4]oxadiazole (135 mg, 0.273 mmol) in acetic acid/water 4:1 (4 mL) and THF (2 mL) is stirred at rt for 3 h. Then, approx. 6 N HCl in isopropanol (1 mL) is added and stirring is continued for 30 min. Diethylamine (0.2 mL) is added to the mixture which is then purified by prep. HPLC (Grom-Sil 120 ODS-4-HE, 30×75 mm, 10 um, acetonitile/water (0.5% HCOOH), 20% to 95% acetonitrile) to give 2-{2,6-dimethyl-4-[5-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-[1,2,4]oxadiazol-3-yl]-phenoxymethyl}-propane-1,3-diol (50 mg) as a colourless resin; LC-MS: tR=1.12 min, [M+1]+=455.22; 1H NMR (CDCl3): δ 7.78 (s, 2H), 4.05-4.00 (m, 4H), 3.98-3.94 (m, 2H), 3.11 (dd, J=6.4, 18.8 Hz, 1H), 2.94 (d, J=18.8 Hz, 1H), 2.43 (s, 3H), 2.35 (s, 6H), 2.32-2.23 (m, 1H), 2.14 (s br, 2H), 2.00-1.92 (m, 2H), 1.15 (s, 3H), 0.76 (s, 3H).

reactant | 3-[4-(2,2-dimethyl-[1,3]dioxan-5-ylmethoxy)-3,5-dimethyl-phenyl]-5-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-[1,2,4]oxadiazole | 0.273 mmol, 135 mg | CC1(OCC(CO1)COC1=C(C=C(C=C1C)C1=NOC(=N1)C1=C2C[C@@H]3[C@H](C2=C(S1)C)C3(C)C)C)C | C28H34N2O4S
reactant | HCl | approx. 6 N | Cl | ClH
reactant | Diethylamine | 0.2 mL | C(C)NCC | C4H11N
solvent | acetic acid water | 4 mL | C(C)(=O)O.O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | isopropanol | 1 mL | C(C)(C)O | C3H8O
product | 2-{2,6-dimethyl-4-[5-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-[1,2,4]oxadiazol-3-yl]-phenoxymethyl}-propane-1,3-diol | 50 mg | CC1=C(OCC(CO)CO)C(=CC(=C1)C1=NOC(=N1)C1=C2C[C@@H]3[C@H](C2=C(S1)C)C3(C)C)C | C25H30N2O4S
